US08957068B2
A solution of (S)-3-(2-chloropyrimidin-4-yl)-4-isopropyloxazolidin-2-one (42 mg, 0.17 mmol), (S)-4-(1-aminoethyl)phenol hydrochloride (107 mg, 0.616 mmol, 3.5 equiv) and iPr2Net (0.121 mL, 0.695 mmol, 4.0 equiv) in DMSO (1 mL) was heated at 110° C. for 3 h and at 130° C. for additional 2 h. The reaction mixture was diluted with EtOAc (8 mL) and washed with water (30 mL). After separation, the aqueous phase was extracted with EtOAc (3×8 mL). Combined organics were dried over Na2SO4, filtered and concentrated. Silica gel column chromatography (EtOAc/Heptane 10 to 80%) provided (S)-3-(2-((S)-1-(4-hydroxyphenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one (3 mg) in 5% yield. 1H NMR (400 MHz, CD3OD) δ 8.11 (d, J=5.8 Hz, 1H), 7.33 (d, J=5.8 Hz, 1H), 7.12 (d, J 8.1 Hz, 2H), 6.72-6.68 (m, 2H), 4.95 (q, J=6.9 Hz, 1H), 4.69-4.65 (m, 1H), 4.35-4.28 (m, 2H), 1.47 (d, J=7.1 Hz, 3H), 0.75 (br s, 3H), 0.62 (br s, 3H); HRMS(B) m/z 343.1776 (M+H)+.

reactant | (S)-3-(2-chloropyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 0.17 mmol, 42 mg | ClC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C10H12ClN3O2
reactant | (S)-4-(1-aminoethyl)phenol hydrochloride | 0.616 mmol, 107 mg, 3.5 equiv | Cl.N[C@@H](C)C1=CC=C(C=C1)O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 8 mL | CCOC(=O)C | C4H8O2
product | (S)-3-(2-((S)-1-(4-hydroxyphenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 3 mg, 5% yield | OC1=CC=C(C=C1)[C@H](C)NC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C18H22N4O3
